US05446121
A mixture of 4-bromobenzaldehyde (21.9 g, 120 mmol), methyl orthoformate (50 mL, 457 mmol), and para-toluenesulfonic acid (0.05 g, 0.29 mmol) in 100 mL of methanol was heated under reflux for 5 hours. The solvent was removed under vacuum and distillation of the remaining residue gave 1-bromo-4-(dimethoxymethyl)benzene (2.24 g, 9.7 mmol) as a clear colorlessoil.

reactant | 4-bromobenzaldehyde | 120 mmol, 21.9 g | BrC1=CC=C(C=O)C=C1 | C7H5BrO
reactant | methyl orthoformate | 457 mmol, 50 mL | C(OC)([O-])[O-]
reactant | methanol | 100 mL | CO | CH4O
catalyst | para-toluenesulfonic acid | 0.29 mmol, 0.05 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | 1-bromo-4-(dimethoxymethyl)benzene | 9.7 mmol, 2.24 g | BrC1=CC=C(C=C1)C(OC)OC | C9H11BrO2
